US06624186B2
1-(Acetylamino)-2-nitro-5,6,7,8-tetrahydronaphtalene (3a).
A suspension of 1-amino-5,6,7,8-tetrahydronaphtalene (5 ml; 30 mmol) in acetic anhydride (75 ml) was stirred at ambient temperature for 30 min. After cooling to 15° C. nitric acid (1.5 ml, 65%) was added and the mixture was allowed to warm to room temperature. Stirring was continued overnight. The mixture was poured into ice-water and the oily precipitate was filtered off, washed with water and dried. This crude product was purified by column-chromatography on silica gel, using a mixture of ethyl acetate and ligroin (1:1) as the eluent. Yield: 2.5 g (30%).

reactant | 1-amino-5,6,7,8-tetrahydronaphtalene | 30 mmol, 5 ml | NC1=CC=CC=2CCCCC12 | C10H13N
reactant | nitric acid | 1.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(Acetylamino)-2-nitro-5,6,7,8-tetrahydronaphtalene | C(C)(=O)NC1=C(C=CC=2CCCCC12)[N+](=O)[O-] | C12H14N2O3
